US07338951B2
4-(2,3,5,6-Tetrafluoro-pyridin-4-yl)-morpholine (2.36 g; 10 mmol) was dissolved in tetrahydrofuran (50 mL). To the solution was added 4-(2-hydroxyethyl)-morpholine (1.57 g; 12 mmol) followed by sodium hydride (288 mg; 12 mmol), and it was stirred overnight. The solvent was then evaporated, and the solid was purified by column chromatography to give 4-[2,3,5-trifluoro-6-(2-morpholin-4-yl-ethoxy)-pyridin-4-yl]-morpholine (3.3 g).

reactant | 4-(2,3,5,6-Tetrafluoro-pyridin-4-yl)-morpholine | 10 mmol, 2.36 g | FC1=NC(=C(C(=C1F)N1CCOCC1)F)F | C9H8F4N2O
reactant | 4-(2-hydroxyethyl)-morpholine | 12 mmol, 1.57 g | OCCN1CCOCC1 | C6H13NO2
reactant | sodium hydride | 12 mmol, 288 mg | [H-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-[2,3,5-trifluoro-6-(2-morpholin-4-yl-ethoxy)-pyridin-4-yl]-morpholine | 3.3 g | FC1=NC(=C(C(=C1F)N1CCOCC1)F)OCCN1CCOCC1 | C15H20F3N3O3
